US05468898
Following the procedure of Example 56, N-benzyl-5-benzyloxy-3-(2-cyanovinyl)indole is reacted with the sodium azide to give N-benzyl-5-benzyloxy-3-(2-tetrazol-5-ylvinyl)indole. (m.p. 178°-180° C. (dec.))

reactant | N-benzyl-5-benzyloxy-3-(2-cyanovinyl)indole | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=CC#N | C25H20N2O
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | N-benzyl-5-benzyloxy-3-(2-tetrazol-5-ylvinyl)indole | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=CC1=NN=NN1 | C25H21N5O
